* ============================================================
* Kit No.87 - Générateur à courant alternatif (page 95)
* Genere automatiquement par wiring_to_netlist.py - ne pas editer a la main
* ============================================================

.include lib/actifs.lib
.include lib/passifs.lib
.include lib/transducteurs.lib

VIN plus 0 DC 12

*--- Composants du montage
XR1 plus b1 RFIX val=10k
XR2 plus b2 RFIX val=10k
XC1 c2 b1 CFIX val=0.05u
XC2 c1 b2 CFIX val=0.1u
QQ1 c1 b1 0 QKIT
QQ2 c2 b2 0 QKIT
XTR c1 plus c2 s1 s2 XTRFO
XR3 s1 a RFIX val=4.7k
XR4 a s2 RFIX val=4.7k
XEAR s1 a ECOUT

.ic V(b1)=0.65 V(c1)=0.2
.tran 20u 2 UIC

.control
run
let v_ear = v(s1) - v(a)
meas tran freq_osc trig v(c1) val=6 rise=2 targ v(c1) val=6 rise=3
plot v(c1) v(c2)
plot v(s1) v(s2)
plot v_ear
wrdata out/earphone.txt v_ear
.endc
.end

